US04033947
8-Chloro-2,6-diphenyl-1H-s-triazolo[4,3-a] [1,5]benzodiazepine-1,5-dione
A mixture of 8.2 g of 8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione, 5 g of copper powder and 2.5 g of potassium acetate in 100 ml of bromobenzene are refluxed for six hours with stirring. The reaction is diluted with methylene chloride, filtered through a short Florisil column and the filtrate washed with dilute aqueous ammonium hydroxide. The organic phase is washed with water, dried and the solvent evaporated to give the title compound.

reactant | 8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione | 8.2 g | ClC=1C=CC2=C(N(C(C=C3N2C(N=N3)=O)=O)C3=CC=CC=C3)C1 | C16H9ClN4O2
reactant | potassium acetate | 2.5 g | C(C)(=O)[O-].[K+]
solvent | bromobenzene | 100 ml | BrC1=CC=CC=C1 | C6H5Br
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper | 5 g | [Cu] | Cu
product | 8-Chloro-2,6-diphenyl-1H-s-triazolo[4,3-a] [1,5]benzodiazepine-1,5-dione | ClC=1C=CC2=C(N(C(C=C3N2C(N(N3)C3=CC=CC=C3)=O)=O)C3=CC=CC=C3)C1 | C22H15ClN4O2
